US06071925
8-Indan-2-yl-3-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride
The title compound, m.p.>250° C. and MS: m/e=362.2 (M+H+) was prepared in accordance with the general method of example 4 from 8-indan-2-yl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1) and methyl iodide.

reactant | 8-indan-2-yl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C1C(CC2=CC=CC=C12)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | methyl iodide | CI | CH3I
product | 8-Indan-2-yl-3-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C1C(CC2=CC=CC=C12)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1 | InChI=1S/C23H27N3O.ClH/c1-24-17-26(20-9-3-2-4-10-20)23(22(24)27)11-13-25(14-12-23)21-15-18-7-5-6-8-19(18)16-21;/h2-10,21H,11-17H2,1H3;1H
